US06723745B2
(2S)-t-Butoxycarbonylamino-2-methyl-3-butyn-1-ol
(2S)-Amino-2-methyl-3-butyn-1-ol (127 mg, 1.28 mmol) obtained in Reference example 2(f) was dissolved in a mixture of water (1 ml) and tetrahydrofuran (5 ml), and di-t-butyl dicarbonate (380 mg, 1.74 mmol) and anhydrous sodium carbonate (385 mg, 3.63 mmol) were added thereto followed by stirring for 14 hours at room temperature. To the reaction solution was added a saturated aqueous ammonium chloride solution (6 ml), and the resulting solution was extracted with ethyl acetate, and the ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column (elution solvent; n-hexane:ethyl acetate=1:1) to give the title compound (154 mg, 53% yield) as a white crystal.

reactant | di-t-butyl dicarbonate | 1.74 mmol, 380 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium carbonate | 3.63 mmol, 385 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | 6 ml | [Cl-].[NH4+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | (2S)-t-Butoxycarbonylamino-2-methyl-3-butyn-1-ol | 154 mg, 53% yield | C(C)(C)(C)OC(=O)NC([C@H](C#C)C)O | C10H17NO3
